US07560586B2
3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-benzoic acid methyl ester hydrochloride salt
To a solution of 3-[(2-chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propan-1-ol (0.60 g, 1.34 mmol) in toluene (4 mL) at RT was added 3-hydroxy-benzoic acid methyl ester (0.22 g, 1.45 mmol). The mixture was treated with polymer bound triphenylphosphine (0.82 g, 2.50 mmol, 3 mmol/g, Fluka Chemie) (0.71 g, 2.14 mmol, 3 mmol/g, Fluka Chemie). After 15 minutes of stirring, the mixture was treated with DIAD (0.33 mL, 1.67 mmol) and was stirred overnight at RT. The reaction mixture was filtered, concentrated and purified via preparative HPLC (TMC CombiPrep PDS, 75×30 mm, 25 mL/min, acetonitrile:H2O, UV detection at 254 nm) to yield the title compound (0.25 g, 32%); MS (ES+) m/e 583 [M+H]+.

reactant | 3-[(2-chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propan-1-ol | 1.34 mmol, 0.60 g | ClC1=C(CN(CCCO)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C25H25ClF3NO
reactant | 3-hydroxy-benzoic acid methyl ester | 1.45 mmol, 0.22 g | COC(C1=CC(=CC=C1)O)=O | C8H8O3
reactant | triphenylphosphine | 2.50 mmol, 0.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.67 mmol, 0.33 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-benzoic acid methyl ester hydrochloride salt | 0.25 g, 32% | Cl.COC(C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | InChI=1S/C33H31ClF3NO3.ClH/c1-40-32(39)26-15-8-17-28(21-26)41-20-10-19-38(22-27-16-9-18-30(31(27)34)33(35,36)37)23-29(24-11-4-2-5-12-24)25-13-6-3-7-14-25;/h2-9,11-18,21,29H,10,19-20,22-23H2,1H3;1H
